US08685969B2
2. 5-Fluoro-2-(hydroxymethyl)benzoic acid
To a solution of 6-fluoroisobenzofuran-1(3H)-one (0.549 g, 3.61 mmol) in methanol (12 mL) and water (3 mL) at room temperature was added potassium hydroxide (0.350 g, 6.24 mmol). The mixture was heated at reflux for 1.5 hr. The mixture was concentrated under vacuum to a volume of about 3 mL. The residue was acidified with 1 M KHSO4 solution to pH 3-4. The insoluble material (inorganic salt) was removed by suction filtration and the filtrate was extracted with ethyl acetate (5×30 mL). The combined extract was dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (0.479 g, 2.82 mmol, 78% yield) as a white solid.

reactant | 6-fluoroisobenzofuran-1(3H)-one | 3.61 mmol, 0.549 g | FC1=CC=C2COC(C2=C1)=O | C8H5FO2
reactant | potassium hydroxide | 6.24 mmol, 0.350 g | [OH-].[K+]
solvent | methanol | 12 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 5-Fluoro-2-(hydroxymethyl)benzoic acid | 2.82 mmol, 0.479 g, 78% yield | FC=1C=CC(=C(C(=O)O)C1)CO | C8H7FO3
